US06440985B1
5-(5-(2-Trifluoromethylphenyl)furan-2-ylmethylene)-2-thioxodihydropyrimidine-4,6-dione
A suspension of 0.242 g (1 mmol) of 5-(2-trifluoromethylphenyl)furfural, 0.144 g (1 mmol) of 4,6-dihydroxy-2-mercaptopyrimidine, and a drop of piperidine in 6 ml of ethanol was stirred with heating at 80° C. for 4 hours. Upon cooling, the orange suspension was poured into 50 ml of water and sonicated for 10 minutes. Filtration of the orange solvent and drying provided 0.204 g of the product as an orange powder.

reactant | 5-(2-trifluoromethylphenyl)furfural | 1 mmol, 0.242 g | FC(C1=C(C=CC=C1)C1=CC=C(C=O)O1)(F)F | C12H7F3O2
reactant | 4,6-dihydroxy-2-mercaptopyrimidine | 1 mmol, 0.144 g | OC1=NC(=NC(=C1)O)S | C4H4N2O2S
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | water | 50 ml | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 5-(5-(2-Trifluoromethylphenyl)furan-2-ylmethylene)-2-thioxodihydropyrimidine-4,6-dione | 0.204 g | FC(C1=C(C=CC=C1)C1=CC=C(O1)C=C1C(NC(NC1=O)=S)=O)(F)F | C16H9F3N2O3S
